US09388168B2
Preparation of N-(1H-pyrazol-3-yl)-benzamide
3-Aminopyrazole (9 g, 108 mmol) was dissolved in DCM (250 ml). N-methylmorpholine (26.5 g, 262 mmol) was added in one portion. Benzoyl chloride (34.86 g, 248 mmol) was added slowly at room temperature. After stirring at room temperature for 16 hours, the mixture was concentrated under reduced pressure to give a solid. The solid was dissolved in methanol (200 ml). Aqueous solution of NaOH (2.5M, 120 ml, 300 mmol) was added slowly, and THF (50 ml) was added in order to obtain a homogeneous solution. After stirring at room temperature for 20 minutes, the mixture was concentrated under reduced pressure and poured into water (300 ml). The precipitate was filtered and dried in an oven to afford 17.55 g light yellow solid, the yield was 87.7%. 1H-NMR (400 MHz, d6-DMSO): δ 12.45 (s, 1H), 10.79 (s, 1H), 7.99-8.02 (m, 2H), 7.67 (s, 1H), 7.48-7.59 (m, 3H), 6.65 (s, 1H).

reactant | 3-Aminopyrazole | 108 mmol, 9 g | NC1=NNC=C1 | C3H5N3
reactant | N-methylmorpholine | 262 mmol, 26.5 g | CN1CCOCC1 | C5H11NO
reactant | Benzoyl chloride | 248 mmol, 34.86 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NaOH | 300 mmol, 2.5M, 120 ml | [OH-].[Na+]
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 200 ml | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-(1H-pyrazol-3-yl)-benzamide | 17.55 g, yield was 87.7% | N1N=C(C=C1)NC(C1=CC=CC=C1)=O | C10H9N3O
